US07820683B2
(2R)—N,N-dimethyl-2-[(4-{[1-(1,3-oxazol-2-ylmethyl)-1H-indazol-5-yl]amino}quinazolin-5-yl)oxy]propanamide
Using the same procedure as in Example 18, (2R)—N,N-dimethyl-2-[(4-oxo-3,4-dihydroquinazolin-5-yl)oxy]propanamide (212 mg, 0.81 mmol) and 1-(1,3-oxazol-2-ylmethyl)-1H-indazol-5-amine (1 equivalents) were reacted to give the title compound as a beige foam (295 mg, 80%); NMR spectrum (CDCl3) 1.73 (d, 3H), 3.06 (s, 3H), 3.14 (s, 3H), 5.43 (q, 1H), 5.71 (s, 2H), 6.81 (d, 1H), 7.09 (s, 1H), 7.48-7.53 (m, 2H), 7.58-7.62 (m, 2H), 7.88 (d, 1H), 8.07 (s, 1H), 8.41 (s, 1H), 8.61 (s, 1H), 10.92 (br s, 1H); Mass spectrum MH+ 458.

reactant | (2R)—N,N-dimethyl-2-[(4-oxo-3,4-dihydroquinazolin-5-yl)oxy]propanamide | 0.81 mmol, 212 mg | CN(C([C@@H](C)OC1=C2C(NC=NC2=CC=C1)=O)=O)C | C13H15N3O3
reactant | 1-(1,3-oxazol-2-ylmethyl)-1H-indazol-5-amine | 1 equivalents | O1C(=NC=C1)CN1N=CC2=CC(=CC=C12)N | C11H10N4O
product | (2R)—N,N-dimethyl-2-[(4-{[1-(1,3-oxazol-2-ylmethyl)-1H-indazol-5-yl]amino}quinazolin-5-yl)oxy]propanamide | 295 mg, 80% | CN(C([C@@H](C)OC1=C2C(=NC=NC2=CC=C1)NC=1C=C2C=NN(C2=CC1)CC=1OC=CN1)=O)C | C24H23N7O3
